US05405851
To a hot solution of 3,9-dimethylbenzo[f]quinazolin-1(2H)-one (4.00 g, 17.9 mmol) in benzene (2000 ml) under nitrogen was added N-bromosuccinimide (4.00 g, 22.5 mmol). The reaction mixture was stirred just below reflux for 30 minutes, then at a gentle reflux for 30 minutes. The resulting suspension was allowed to cool for 2 hours, the solid filtered and dried at 70° C. under reduced pressure to give 9-bromomethyl-3-methylbenzo[f]quinazolin-1(2H)-one (4.32 g, 83% purity by NMR). 1H NMR (DMSO-d6, 300 MHz) δ: 2.45 (s, 3H, CH3, 4.96 (s, 2H, CH2), 7.65 (d, J=9 Hz, 1H, Ar), 7.70 (dd, J=8,2 Hz, 1H, Ar), 8.05 (d, J=8 Hz, 1H, Ar), 8.16 (d, J=9 Hz, 1H, Ar), 9.89 (s, 1H, Ar), 12.7 (br s, 1H, NH).

reactant | 3,9-dimethylbenzo[f]quinazolin-1(2H)-one | 17.9 mmol, 4.00 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)C | C14H12N2O
reactant | N-bromosuccinimide | 22.5 mmol, 4.00 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 2000 ml | C1=CC=CC=C1 | C6H6
product | 9-bromomethyl-3-methylbenzo[f]quinazolin-1(2H)-one | 4.32 g, 83% | BrCC=1C=CC2=C(C=3C(NC(=NC3C=C2)C)=O)C1 | C14H11BrN2O
